US04940795
To a solution of 1.94 g 1-acetyl-4-piperidone in a mixture of ether (80 ml) and tetrahydrofuran (40 ml), was added dropwise at 10° C. or lower 275 ml of a 0.5M Grignard reagent prepared by the usual way from crotyl chloride and magnesium, and the resulting mixture was stirred overnight at room temperature. To the ice-cooled reaction mixture, was slowly added 100 ml of saturated aqueous solution of sodium chloride, and the layers were separated. The aqueous layer was extracted with chloroform, the two organic solutions were each concentrated, and the combined concentrate was subjected to silica gel column chromatography using, as eluent, a mixed solvent of ethyl acetate/n-hexane (1:1 by volume) containing 3% methanol, giving 16.9 g of 1-acetyl-4-hydroxy-4-(1-methyl-2-propenyl)piperidine as oil.

reactant | 1-acetyl-4-piperidone | 1.94 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | crotyl chloride | C(C=CC)Cl | C4H7Cl
reactant | magnesium | [Mg] | Mg
reactant | sodium chloride | [Cl-].[Na+]
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-acetyl-4-hydroxy-4-(1-methyl-2-propenyl)piperidine | 16.9 g | C(C)(=O)N1CCC(CC1)(C(C=C)C)O | C11H19NO2
